US04698384
4-Aminobutyraldehyde diethyl acetal (AmBDA, 75 g, 1.09 mol, Aldrich Chemical) was combined with a two phase mixture of 955 mL of CH2Cl2 and 160 mL of 14 N NaOH in a 3 neck flask equipped with a thermometer and an efficient mechanical stirrer. This was cooled to 15° C. with an ice bath. Acryloyl chloride (98.3 g, 1.09 mol. Aldrich) was added via an addition funnel at a rate slow enough to maintain the reaction temperature below 30° C. Reaction monitoring by capillary glpc revealed essentially complete AmBDA consumption when the acryloyl chloride addition was complete. Agitation was continued for 1 h. The layers were separated (water may be added to dissolve precipitated salt and improve phase separation) and the organic phase was washed with saturated brine. The brine was combined with the aqueous layer and back extracted with CH2Cl2 . The combined organic layers were neutralized with saturated aqueous NaH2PO4, dried over anhydrous MgCl2 and concentrated on a rotary evaporator at 40° C. to give 99% pure ABDA (by glpc) in 87% yield. The product can be freed of any high molecular weight by-products by kugelrohr distillation (120°-125° C. at 0.2 torr), but this produces significant yield losses and partial isomerization to N-acryloyl-5-ethoxy pyrrolidine (AEP) and related products. The pot temperature should not exceed 60° C. during these operations. The yield loses are minimized by adding a basic reagent, such as Na2CO3 , and a radical inhibitor, such as methylene blue, to the distillation vessel.

reactant | 4-Aminobutyraldehyde diethyl acetal | 1.09 mol, 75 g | C(C)OC(CCCN)OCC | C8H19NO2
reactant | NaOH | 14 N, 160 mL | [OH-].[Na+]
reactant | Acryloyl chloride | 1.09 mol, 98.3 g | C(C=C)(=O)Cl | C3H3ClO
solvent | CH2Cl2 | 955 mL | C(Cl)Cl | CH2Cl2
product | N-acryloyl-5-ethoxy pyrrolidine | 87% yield | C(C=C)(=O)N1CCCC1OCC | C9H15NO2
